US06809206B2
Preparation of 2-(4-Methylbenzoyl)-4,4-dimethyl-1,3-cyclohexanedione
A 50-mL single neck round bottom flask was charged with 4-cyanophenyl 4-methylbenzoate (2.65 g, 11.2 mmol), 4,4-dimethyl-1,3-cyclohexanedione (2.10 g, 15 mmol) and acetonitrile (15 mL). Then triethylamine (2.5 g, 25 mmol) and acetone cyanohydrin (0.14 mL, 1.5 mmol) were added and the mixture was refluxed for 6 hours. Volatiles were stripped from the reaction mixture and the residue was partitioned between diethyl ether (100 mL) and water (50 mL). The organic layer was extracted with saturated aqueous sodium bicarbonate (30 mL), then water (10 mL), then brine (10 mL). All aqueous layers were combined and 1N hydrochloric acid was added to pH 1. The resulting oil was extracted into dichloromethane (30 mL, 2×15 mL). The dichloromethane layers were combined, dried over magnesium sulfate, filtered and stripped to a brown oil (3.57 g). The crude product was chromatographed on silica gel (200 g), eluting with hexanes-ethyl acetate (4:1). Fractions containing pure product were concentrated to a yellow oil (2.08 g), which was crystallized from hexanes to afford the title compound as off-white crystals, 1.35 g (46.8%), m.p. 78-79° C. 1H NMR (DMSO-d6): δ 1.08 (s, 6), 1.84 (m, 2), 2.36 (s, 3), 2.61 (m, 2), 7.26 (d, 2), 7.60 (d, 2).

reactant | 4-cyanophenyl 4-methylbenzoate | 11.2 mmol, 2.65 g | CC1=CC=C(C(=O)OC2=CC=C(C=C2)C#N)C=C1 | C15H11NO2
reactant | 4,4-dimethyl-1,3-cyclohexanedione | 15 mmol, 2.10 g | CC1(C(CC(CC1)=O)=O)C | C8H12O2
reactant | triethylamine | 25 mmol, 2.5 g | C(C)N(CC)CC | C6H15N
reactant | acetone cyanohydrin | 1.5 mmol, 0.14 mL | CC(C#N)(O)C | C4H7NO
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 2-(4-Methylbenzoyl)-4,4-dimethyl-1,3-cyclohexanedione | CC1=CC=C(C(=O)C2C(CCC(C2=O)(C)C)=O)C=C1 | C16H18O3
